US07531545B2
4-(2-Amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-5-methyl-hexanoic acid benzyl ester (Compound #231)
To a solution of (4-(2-amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-4-(S)-cyclohexyl-butyric acid (0.1 g, 0.25 mmol) in DCM (10 mL) was added oxalyl chloride (2.0M in DCM, 0.8 mL, 2 mmol). The resulting mixture was stirred at room temperature one hour. An aliquot from the reaction mixture was quenched in MeOH and analyzed by MS-HPLC which indicated that all of the acid was converted to the corresponding acid chloride. The solvent and excess oxalyl chloride was removed by vacuum. DCM (10 mL) was added followed by benzyl alcohol (0.089 mL, 0.8 mmol). The resulting solution was stirred at room temperature for one hour. The solvent was removed under vacuum to yield an oil which was purified by Gilson HPLC to yield the title compound as a solid, as its corresponding TFA salt.

reactant | 4-(2-amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-4-(S)-cyclohexyl-butyric acid | 0.25 mmol, 0.1 g | NC=1N(CC2=C(N1)C=NC(=C2)OC2=CC=CC=C2)[C@@H](CCC(=O)O)C2CCCCC2 | C23H28N4O3
reactant | oxalyl chloride | 2 mmol, 2.0M, 0.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzyl alcohol | 0.8 mmol, 0.089 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-5-methyl-hexanoic acid benzyl ester | C(C1=CC=CC=C1)OC(CCC(C(C)C)N1C(=NC2=C(C1)C=C(N=C2)OC2=CC=CC=C2)N)=O | C27H30N4O3
